US04346094
A solution of 1.8 g. of methyl 3-(3-pyridyl)-4-amino-5-isothiazolecarboxylate in 20 ml. of ethanol and 20 ml. of water containing three pellets of sodium hydroxide was heated at reflux for ninety minutes. The reaction mixture was then added to 50 ml. of ice water, and the aqueous mixture was acidified by the addition of 1 N aqueous hydrochloric acid. The solid precipitate was collected by filtration and recrystallized from acetic acid and water to provide 3-(3-pyridyl)-4-amino-5-isothiazolecarboxylic acid. M.P. 235°-236° C.

reactant | methyl 3-(3-pyridyl)-4-amino-5-isothiazolecarboxylate | N1=CC(=CC=C1)C1=NSC(=C1N)C(=O)OC | C10H9N3O2S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
product | 3-(3-pyridyl)-4-amino-5-isothiazolecarboxylic acid | N1=CC(=CC=C1)C1=NSC(=C1N)C(=O)O | C9H7N3O2S
